US07205326B2
A mixture of 4-Fluoro-2-trifluoromethyl-benzaldehyde (2 g, 10.2 mmol), malonic acid (1.2 g, 11.2 mmol), piperidine (0.087 g, 1 mmol) and pyridine (7 ml) was kept at reflux temperature until carbon dioxide formation ceased (3 h). After cooling to room temperature the reaction mixture was poured onto 40 g ice and 20 ml 6N HCl. The precipitate was isolated, washed with water and dried yielding 1.16 g (49%) 3-(4-fluoro-2-trifluoromethyl-phenyl)-acrylic acid.

reactant | 4-Fluoro-2-trifluoromethyl-benzaldehyde | 10.2 mmol, 2 g | FC1=CC(=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | malonic acid | 11.2 mmol, 1.2 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 1 mmol, 0.087 g | N1CCCCC1 | C5H11N
reactant | carbon dioxide | C(=O)=O | CO2
reactant | HCl | 6N, 20 ml | Cl | ClH
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-fluoro-2-trifluoromethyl-phenyl)-acrylic acid | 1.16 g, 49% | FC1=CC(=C(C=C1)C=CC(=O)O)C(F)(F)F | C10H6F4O2
